US07105544B2
N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLHEPTANAMIDE
Example 11 was prepared from 2,2-diphenylheptanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.65 (s, 1H), 7.45 (s, 1H), 7.40 (m, 1H), 7.37–7.19 (m, 11H), 6.88 (d, 1H, J=7.3 Hz), 6.34 (t, 1H, J=4.5 Hz), 3.34–3.27 (m, 3H), 2.94–2.87 (m, 2H), 2.52 (septet, 1H, J=6.9 Hz), 2.46–2.34 (m, 4H), 2.27 (t, 2H, J=6.9 Hz), 2.00–1.91 (m, 2H), 1.77–1.69 (m, 2H), 1.69–1.52, (m, 5H), 1.30–1.20 (m, 12H); ESMS m/e: 568.4 (M+H)+.

reactant | 2,2-diphenylheptanoic acid | C1(=CC=CC=C1)C(C(=O)O)(CCCCC)C1=CC=CC=C1 | C19H22O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLHEPTANAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(C(CCCCC)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H49N3O2
